US04433114
In the same manner, equimolar amounts of 3-aminopropionic acid and maleic anhydride are reacted to produce N-carboxyethylmaleamic acid (M.P. 150°-152° C.) in 68% yield.

reactant | 3-aminopropionic acid | NCCC(=O)O | C3H7NO2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | N-carboxyethylmaleamic acid | 68% yield | C(=O)(O)CCNC(\C=C/C(=O)O)=O | C7H9NO5
